data/oMe_Silver.jsonl
{"reaction_id": "NR-144_1-C#N_2-C#CC1CC1_3-C(=O)OC_4-C_5-C","name": "Michael Addition","level": "medium","reactants_smiles": ["C(C#N)(C#CC1CC1)=C(C(=O)OC)C(=O)C","S([H])C"],"products_smiles": ["S(C)C(C#N)(C#CC1CC1)C(C(=O)OC)C(=O)C"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[S-]C","rationale": "Base abstracts the acidic proton from the thiol due to sulfur’s relatively low pKa, generating a thiolate anion with high nucleophilicity."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(C)C(C#N)(C#CC1CC1)C(C(=O)OC)=C([O-])C","rationale": "The thiolate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C)C(C#N)(C#CC1CC1)C(C(=O)OC)C(=O)C","rationale": "The enolate intermediate is protonated to form the neutral thioether, driven by the thermodynamic stability of the carbonyl group."}],"description": "Under basic conditions, the thiol is deprotonated to form a strong nucleophile, which undergoes conjugate (Michael) addition to the α,β-unsaturated carbonyl. The resulting enolate intermediate is then protonated to yield the stable thioether product."}
{"reaction_id": "NR-201_1-C#CC_2-c2ccc3ccccc3c2","level": "medium","name": "Nazarov Cyclization Reaction","reactants_smiles": ["C(C(C#CC))=CC(=O)C=C(C(c2ccc3ccccc3c2))","CS(=O)(=O)O"],"products_smiles": ["C(c2ccc3ccccc3c2)C1=CC(=O)CC1(C#CC)"],"conditions": "H+ OSO2Me","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C#CC))=CC(=[OH+])C=CC(c2ccc3ccccc3c2)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases electrophilicity and stabilizes the developing positive charge via resonance, facilitating oxyallyl cation formation under strong acid."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C1(=CC(C([CH+]1)C(C#CC))C(c2ccc3ccccc3c2))O","step_weight": 0,"rationale": "The oxyallyl cation undergoes a conrotatory 4π-electrocyclization, favored by orbital symmetry and leading to a cyclopentenyl cation stabilized by adjacent substituents."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(=CC(C(=C1)C(c2ccc3ccccc3c2))C(C#CC))O","step_weight": 0,"rationale": "Deprotonation relieves positive charge on the cyclopentenyl cation, driven by formation of a more conjugated alkene system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c2ccc3ccccc3c2)C1=CC(=O)CC1(C(C#CC))","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the enol to the more stable conjugated ketone, favored by carbonyl bond strength and extended π-conjugation."}],"description": "Under strong acid conditions, the divinyl ketone is protonated to activate the carbonyl toward cation formation. This enables oxyallyl cation generation, which undergoes a Nazarov 4π-electrocyclization to form a cyclopentenyl cation. Subsequent deprotonation and tautomerization yield the thermodynamically stable cyclopentenone product."}
